US06825194B2
(b) (9S)-1-butyl-9-ethyl-9-hydroxy-1H,12H-pyrano[3″,4″:6′,7′]indolizino[1′,2′:6,5]pyrido-[4,3,2-de]quinazoline-10,13 (9H,15H)-dione
To a solution of (9S)-9-acetoxy-1-butyl-9-ethyl-1H,12H-pyrano[3″,4″:6′,7′]indolizino[1′,2′:6,5]pyrido[4,3,2-de]quinazoline-10,13(9H,15H)-dione (6.1 mg, 0.013 mmol) in MeOH (2 ml) cooled in an ice-bath was added anhydrous hydrazine (100 μl) and the mixture was stirred for 1 hr. at room temperature. Aqueous 1 N HCl solution was added dropwise to acidify the reaction mixture, and the mixture was stirred for 1 hr. at room temperature. After concentrated under reduced pressure, the residue was extracted with CH2Cl2 (30 ml) and the CH2Cl2 solution was washed with brine, dried over MgSO4 and evaporated. The residue was purified by column chromatography (dichloromethane/methanol=20/1) to give pure product (3.9 mg, 70%).

reactant | (9S)-9-acetoxy-1-butyl-9-ethyl-1H,12H-pyrano[3″,4″:6′,7′]indolizino[1′,2′:6,5]pyrido[4,3,2-de]quinazoline-10,13(9H,15H)-dione | 0.013 mmol, 6.1 mg | C(C)(=O)O[C@@]1(C(OCC=2C(N3CC=4C(=NC=5C=6C4N(C=NC6C=CC5)CCCC)C3=CC21)=O)=O)CC | C27H26N4O5
reactant | hydrazine | 100 μl | NN | H4N2
reactant | HCl | 1 N | Cl | ClH
solvent | MeOH | 2 ml | CO | CH4O
product | (9S)-1-butyl-9-ethyl-9-hydroxy-1H,12H-pyrano[3″,4″:6′,7′]indolizino[1′,2′:6,5]pyrido-[4,3,2-de]quinazoline-10,13 (9H,15H)-dione | 3.9 mg, 70% | C(CCC)N1C=NC=2C=CC=C3C2C1=C1C(=N3)C3=CC2=C(C(N3C1)=O)COC([C@]2(O)CC)=O | C25H24N4O4
